US08912330B2
tert-butyl 4-{4-[1-(benzylamino)-1H-pyrrolo[3,2-b]pyridin-6-yl]-1H-pyrazol-1-yl}piperidine-1-carboxylate:
A mixture of tert-butyl 4-[4-(1-{[(E)-phenylmethylidene]amino}-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate (200 mg, 0.43 mmol) in MeOH (10 mL) was treated with excess amount of NaBH4 under reflux. HPLC check indicates disappearance of the starting material. The mixture was diluted with aqueous NaHCO3, and extracted with ethylacetate. The product was purified by column chromatography (EtOAc:MeOH=100:5) and the entitled intermediate was isolated as a white solid (180 mg, yield 90%).

reactant | tert-butyl 4-[4-(1-{[(E)-phenylmethylidene]amino}-1H-pyrrolo[3,2-b]pyridin-6-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 0.43 mmol, 200 mg | C1(=CC=CC=C1)\C=N\N1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C27H30N6O2
reactant | NaBH4 | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-butyl 4-{4-[1-(benzylamino)-1H-pyrrolo[3,2-b]pyridin-6-yl]-1H-pyrazol-1-yl}piperidine-1-carboxylate | 180 mg, yield 90% | C(C1=CC=CC=C1)NN1C=CC2=NC=C(C=C21)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C27H32N6O2
